US07375087B2
3-(β-D-Galactopyranosyloxy)-4-[(4-{4-[1-{[4-(2-hydroxyethyl)-piperazin-1-yl]carbonyl}-1-(methyl)-ethylcarbamoyl]butyl}phenyl)methyl]-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 78 using 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{4-[1-carboxy-1-(methyl)-ethylcarbamoyl]butyl}phenyl)methyl]-5-isopropyl-1H-pyrazole and 1-(2-hydroxyethyl)-piperazine instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-carboxyethoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole and 2-amino-2-methylpropionamide, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{4-[1-carboxy-1-(methyl)-ethylcarbamoyl]butyl}phenyl)methyl]-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)CCCCC(NC(C)(C)C(=O)O)=O)C(C)C | C36H49N3O13
reactant | 1-(2-hydroxyethyl)-piperazine | OCCN1CCNCC1 | C6H14N2O
reactant | 2-amino-2-methylpropionamide | NC(C(=O)N)(C)C | C4H10N2O
product | 3-(β-D-Galactopyranosyloxy)-4-[(4-{4-[1-{[4-(2-hydroxyethyl)-piperazin-1-yl]carbonyl}-1-(methyl)-ethylcarbamoyl]butyl}phenyl)methyl]-5-isopropyl-1H-pyrazole | [C@@H]1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)CCCCC(NC(C)(C)C(=O)N1CCN(CC1)CCO)=O)C(C)C | C34H53N5O9
